US05068334
1,3-Dimethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example 5(b) from 3-methyl- 5,6,7,8-tetrahydro-cumarin-5-one and methanolic methylamine solution a ambient temperature. After evaporation of the methanolic ammonia the residue is recrystallised from water with the addition of charcoal.

reactant | 3-methyl- 5,6,7,8-tetrahydro-cumarin-5-one | CC=1C(OC=2CCCC(C2C1)=O)=O | C10H10O3
reactant | methylamine | CN | CH5N
product | 1,3-Dimethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | CN1C(C(=CC=2C(CCCC12)=O)C)=O | C11H13NO2
